US04116873
The aryl ester of vinylsulfonic acid can be prepared by several available techniques. U.S. Pat. No. 3,121,730 teaches reacting a beta-chloroethanesulfonyl chloride with phenol in an aqueous medium at a pH of between 7.5 and 11.5. The reaction proceeds with a loss of 2 mols of hydrogen chloride to yield phenyl vinylsulfonate. U.S. Pat. No. 3,133,948 teaches reacting carbyl sulfate with an aromatic hydroxy compound in an aqueous alkaline medium at a pH between 7.5 and 11.5 to yield a aryl vinylsulfonate.

reactant | vinylsulfonic acid | C(=C)S(=O)(=O)O | C2H4O3S
reactant | beta-chloroethanesulfonyl chloride | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen chloride | 2 mols | Cl | ClH
product | phenyl vinylsulfonate | C(=C)S(=O)(=O)OC1=CC=CC=C1 | C8H8O3S
